US07459453B2
5-Acetyl-4-amino-2-ethyl-6-phenylpyridazin-3(2H)-one
A mixture of 6-ethyl-3-methyl-4-phenylisoxazolo[3,4-d]pyridazin-7(6H)-one (Dal Piaz, V et al, J. Med. Chem. 1997, 40, 1417) (2.0 g , 7.83 mmol) and, 10% palladium on charcoal (400 mg) in ethanol (400 ml) was shaken under hydrogen at room temperature and 2 bar for 3 h. The catalyst was filtered off and the solvent was removed under reduced pressure to yield the title compound (1.97 g, 98% yield).

reactant | 6-ethyl-3-methyl-4-phenylisoxazolo[3,4-d]pyridazin-7(6H)-one | 7.83 mmol, 2.0 g | C(C)N1N=C(C=2C(C1=O)=NOC2C)C2=CC=CC=C2 | C14H13N3O2
catalyst | palladium on charcoal | 400 mg | [Pd] | Pd
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 5-Acetyl-4-amino-2-ethyl-6-phenylpyridazin-3(2H)-one | 1.97 g, 98% yield | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)N | C14H15N3O2
